US06040309
Ethyl 6-(3H-imidazo[4,5-c]pyridin-3-ylmethyl)-3-[(3-methoxyphenyl)sulfanyl]benzo[b]thiophene-2-carboxylate
1,8-Diazabicyclo[5.4.0]undec-7-ene (DBU--0.07 ml, 0.48 mmol) was added to a mixture of ethyl 3-(chloro)-6-(3H-imidazo[4,5-c]pyridin-3-ylmethyl)benzo[b]thiophene-2 carboxylate (Preparation 12, 150 mg, 0.4 mmol) and 3-methoxybenzenethiol (0.07 ml, 0.6 mmol) in a mixture of dimethylformamide (1 ml) and tetrahydrofuran (1 ml) under a nitrogen atmosphere. The solution was heated to 60° C. for 6 hours and then partitioned between ethyl acetate and water. The organics were separated and washed with water, dried (magnesium sulfate) and evaporated under reduced pressure. The residue was triturated with diethyl ether and hexane mixture to give the title compound as a colourless solid (155 mg).

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 0.48 mmol, -0.07 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl 3-(chloro)-6-(3H-imidazo[4,5-c]pyridin-3-ylmethyl)benzo[b]thiophene-2 carboxylate | 0.4 mmol, 150 mg | ClC=1C2=C(SC1C(=O)OCC)C=C(C=C2)CN2C=NC1=C2C=NC=C1 | C18H14ClN3O2S
reactant | 3-methoxybenzenethiol | 0.6 mmol, 0.07 ml | COC=1C=C(C=CC1)S | C7H8OS
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | Ethyl 6-(3H-imidazo[4,5-c]pyridin-3-ylmethyl)-3-[(3-methoxyphenyl)sulfanyl]benzo[b]thiophene-2-carboxylate | 155 mg | N1=CN(C=2C=NC=CC21)CC=2C=CC1=C(SC(=C1SC1=CC(=CC=C1)OC)C(=O)OCC)C2 | C25H21N3O3S2
